US06333324B1
(2R)-4-Methanesulfonyl-N-(2-tetrahydropyranyloxy)-2-piperazinecarboxamide (266 mg) and trans-β-styrenesulfonyl chloride (210 mg) were used to give 271 mg of (2R)-4-methanesulfonyl-1-(2-phenyl-2-trans-ethenylsulfonyl)-N-(2-tetrahydropyranyloxy)-2-piperazinecarboxamide as amorphous powder in substantially the same manner as in Example 4.

reactant | (2R)-4-Methanesulfonyl-N-(2-tetrahydropyranyloxy)-2-piperazinecarboxamide | 266 mg | CS(=O)(=O)N1C[C@@H](NCC1)C(=O)NOC1OCCCC1 | C11H21N3O5S
reactant | trans-β-styrenesulfonyl chloride | 210 mg | C(=C\C1=CC=CC=C1)/S(=O)(=O)Cl | C8H7ClO2S
product | (2R)-4-methanesulfonyl-1-(2-phenyl-2-trans-ethenylsulfonyl)-N-(2-tetrahydropyranyloxy)-2-piperazinecarboxamide | 271 mg | CS(=O)(=O)N1C[C@@H](N(CC1)S(=O)(=O)\C=C\C1=CC=CC=C1)C(=O)NOC1OCCCC1 | C19H27N3O7S2
